US06664260B2
Using the general method of Example 13 Part F, 2-(4-phenoxy-1H-imidazo[4,5-c]quinolin-1-yl)ethanol (0.82 g, 2.69 mmol) was reacted with 4-(chloromethyl)-3,5-dimethylisoxazole (0.43 g, 2.95 mmol) and purified to provide 0.59 g of 1-{2-[(3,5-dimethylisoxazol-4-yl)methoxy]ethyl}-4-phenoxy-1H-imidazo[4,5-c]quinoline as a white foamy solid.

reactant | 2-(4-phenoxy-1H-imidazo[4,5-c]quinolin-1-yl)ethanol | 2.69 mmol, 0.82 g | O(C1=CC=CC=C1)C1=NC=2C=CC=CC2C2=C1N=CN2CCO | C18H15N3O2
reactant | 4-(chloromethyl)-3,5-dimethylisoxazole | 2.95 mmol, 0.43 g | ClCC=1C(=NOC1C)C | C6H8ClNO
product | 1-{2-[(3,5-dimethylisoxazol-4-yl)methoxy]ethyl}-4-phenoxy-1H-imidazo[4,5-c]quinoline | 0.59 g | CC1=NOC(=C1COCCN1C=NC=2C(=NC=3C=CC=CC3C21)OC2=CC=CC=C2)C | C24H22N4O3
